US05208246
2,2-dimethyl-3,4-epoxy-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 3 g (17.4 mmol) of 2,2-dimethyl-1-oxo-1,2-dihydronaphthalene (L. H. Klemm, J. Shabtai, D. R. Taylor, J. Org. Chem., 1968, 33, 1480) in 30 ml of CH2Cl2, were added 6.00 g (19.1 mmol) of m-chloroperbenzoic acid dissolved in 90 ml CH2Cl2 and the resulting mixture was stirred overnight at room temperature. The resulting solution was washed successively with Na2S2O5 and NaHCO3 solutions and dried over MgSO4. The solvent was removed to yield 3.27 g of a crude that was chromatographed on silica gel eluting with hexane-CH2Cl2 mixtures of increasing polarity. 2.09 of the title compound of this preparation were obtained as a colorless oil (yield: 64%).

reactant | 2,2-dimethyl-1-oxo-1,2-dihydronaphthalene | 17.4 mmol, 3 g | CC1(C(C2=CC=CC=C2C=C1)=O)C | C12H12O
reactant | m-chloroperbenzoic acid | 19.1 mmol, 6.00 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 90 ml | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-3,4-epoxy-1,2,3,4-tetrahydronaphthalen-1-one | CC1(C(C2=CC=CC=C2C2C1O2)=O)C | C12H12O2
